US05250517
A mixture of 880 mg (2.5 mmol) of (S)-α-amino-N-[(1S,2S,4S)-2-hydroxy-1-isobutyl-4-isopropyl-5-hexenyl]-imidazole-4-propionamide. 1.99 g (7.5 mmol) of t-butoxycarbonyl-L-phenylalanine. 1.05 ml (7.5 mmol) of triethylamine and 3.32 g (7.5 mmol) of BOP in 100 ml of acetonitrile was stirred at room temperature for 6 days. Thereafter, the solvent was evaporated and the residue was dissolved in ethyl acetate and washed in succession with 2N sodium bicarbonate solution, saturated ammonium chloride solution, again with 2N sodium bicarbonate solution and again with saturated ammonium chloride solution. The organic solution was dried over sodium sulfate and evaporated and the residue was triturated twice with hexane. The residue was chromatographed on 100 g of silica gel with a 98:2 mixture of chloroform and methanol. Recrystallization of the thus-obtained crude product from methylene chloride and hexane yielded 400 mg of t-butyl [(S)-α-[[(S)-1-[[(1S,2S,4S)-2-hydroxy-1-isobutyl-4 -isopropyl-5-hexenyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl]carbamate as a white powder, melting point 82°.

reactant | (S)-α-amino-N-[(1S,2S,4S)-2-hydroxy-1-isobutyl-4-isopropyl-5-hexenyl]-imidazole-4-propionamide | 2.5 mmol, 880 mg | N[C@H](C(=O)N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC(C)C)CC=1N=CNC1 | C19H34N4O2
reactant | t-butoxycarbonyl-L-phenylalanine | 7.5 mmol, 1.99 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | triethylamine | 7.5 mmol, 1.05 ml | C(C)N(CC)CC | C6H15N
reactant | BOP | 7.5 mmol, 3.32 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | t-butyl [(S)-α-[[(S)-1-[[(1S,2S,4S)-2-hydroxy-1-isobutyl-4 -isopropyl-5-hexenyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl]carbamate | 400 mg | O[C@H]([C@H](CC(C)C)NC(=O)[C@H](CC=1N=CNC1)NC(=O)[C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O)C[C@H](C=C)C(C)C | C33H51N5O5
